US06914074B2
2-Methoxy-7-phenylnaphthalene
The title compound was prepared by reacting 7-methoxy-2-naphthyl trifluoromethanesulfonate (3.01 g, 9.83 mmol) with phenylboronic acid (1.4 g, 12 mmol) according to method A to yield 1.95 g (85%) of a white solid mp 62-64° C.; 1H NMR (CDCl3) δ 3.95 (3H, s), 7.15 (1H, dd, J=2.56 Hz, J=8.79 Hz), 7.20 (1H, d, J=2.56 Hz), 7.36-7.39 (1H, m), 7.46-7.50 (2H, m), 7.60 (1H, dd, J=1.83 Hz, J=8.42 Hz), 7.70-7.73 (2H, m), 7.76 (1H, d, J=8.79 Hz), 7.84 (1H, d, J=8.42 Hz), 7.94 (1H, d, J=1.46 Hz); MS (EI) m/z 234 (M)+.

reactant | 7-methoxy-2-naphthyl trifluoromethanesulfonate | 9.83 mmol, 3.01 g | FC(S(=O)(=O)OC1=CC2=CC(=CC=C2C=C1)OC)(F)F | C12H9F3O4S
reactant | phenylboronic acid | 12 mmol, 1.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-Methoxy-7-phenylnaphthalene | COC1=CC2=CC(=CC=C2C=C1)C1=CC=CC=C1 | C17H14O
